** sch_path: /foss/designs/ttsky-oscillating-bones/xschem/testbench.sch
**.subckt testbench
x1 osc_out osc_div_2 osc_div_4 osc_div_8 ua[0] tt_um_oscillating_bones
V1 VPWR VGND 1.8
R21 VGND osc_out 1Meg
R22 VGND osc_div_2 1Meg
R23 VGND osc_div_4 1Meg
R24 VGND osc_div_8 1Meg
V2 0 VGND 0
V3 VAPWR VGND 3.3
V4 VDPWR VGND 1.8
R1 VGND osc_out_3v3 7Meg
R2 osc_out_3v3 ua[0] 500
C1 ua[0] 0 2.5p
C2 osc_out_3v3 0 2.5p
**** begin user architecture code

** opencircuitdesign pdks install
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt
.include /foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice





.tran 50p 200n
.save all

.control
run

meas tran tdiff TRIG osc_out VAL=1.7 RISE=2 TARG osc_out VAL=1.7 RISE=3
let osc_freq_mhz = (1 / (tdiff) / 1e6)
save osc_freq_mhz

meas tran tdiff_div2 TRIG osc_div_2 VAL=1.7 RISE=2 TARG osc_div_2 VAL=1.7 RISE=3
let osc_div_2_freq_mhz = (1 / (tdiff_div2) / 1e6)
save osc_div_2_freq_mhz

meas tran tdiff_div4 TRIG osc_div_4 VAL=1.7 RISE=2 TARG osc_div_4 VAL=1.7 RISE=3
let osc_div_4_freq_mhz = (1 / (tdiff_div4) / 1e6)
save osc_div_4_freq_mhz

meas tran tdiff_div8 TRIG osc_div_8 VAL=1.7 RISE=2 TARG osc_div_8 VAL=1.7 RISE=3
let osc_div_8_freq_mhz = (1 / (tdiff_div8) / 1e6)
save osc_div_8_freq_mhz

write testbench.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  tt_um_oscillating_bones.sym # of pins=5
** sym_path: /foss/designs/ttsky-oscillating-bones/xschem/tt_um_oscillating_bones.sym
** sch_path: /foss/designs/ttsky-oscillating-bones/xschem/tt_um_oscillating_bones.sch
.subckt tt_um_oscillating_bones uo_out[0] uo_out[1] uo_out[2] uo_out[3] ua[0]
*.opin uo_out[1]
*.opin uo_out[0]
*.opin uo_out[2]
*.opin uo_out[3]
*.opin ua[0]
x22 uo_out[1] uo_out[2] uo_out[3] uo_out[0] freq_divider
x1 net2 ring
x2 net1 uo_out[0] VDPWR skullfet_inverter_5v_pwr
x4 net2 net1 VAPWR skullfet_inverter_5v_pwr
x5 net1 ua[0] VAPWR skullfet_inverter_5v_pwr
.ends


* expanding   symbol:  freq_divider.sym # of pins=4
** sym_path: /foss/designs/ttsky-oscillating-bones/xschem/freq_divider.sym
** sch_path: /foss/designs/ttsky-oscillating-bones/xschem/freq_divider.sch
.subckt freq_divider ODIV2 ODIV4 ODIV8 IN
*.ipin IN
*.opin ODIV2
*.opin ODIV4
*.opin ODIV8
x1 IN net3 VGND VNB VPB VPWR ODIV2 net3 sky130_fd_sc_hd__dfxbp_1
x2 ODIV2 net1 VGND VNB VPB VPWR ODIV4 net1 sky130_fd_sc_hd__dfxbp_1
x3 ODIV4 net2 VGND VNB VPB VPWR ODIV8 net2 sky130_fd_sc_hd__dfxbp_1
.ends


* expanding   symbol:  ring.sym # of pins=1
** sym_path: /foss/designs/ttsky-oscillating-bones/xschem/ring.sym
** sch_path: /foss/designs/ttsky-oscillating-bones/xschem/ring.sch
.subckt ring ROSC_OUT
*.opin ROSC_OUT
x1 net20 net1 skullfet_inverter_5v
x2 net1 net3 skullfet_inverter_5v
x3 net3 net2 skullfet_inverter_5v
x4 net2 ROSC_OUT skullfet_inverter_5v
x5 ROSC_OUT net4 skullfet_inverter_5v
x7 net5 net6 skullfet_inverter_5v
x6 net4 net5 skullfet_inverter_5v
x8 net6 net7 skullfet_inverter_5v
x9 net7 net11 skullfet_inverter_5v
x10 net11 net8 skullfet_inverter_5v
x11 net8 net9 skullfet_inverter_5v
x12 net9 net10 skullfet_inverter_5v
x13 net10 net12 skullfet_inverter_5v
x14 net12 net13 skullfet_inverter_5v
x15 net13 net14 skullfet_inverter_5v
x16 net14 net15 skullfet_inverter_5v
x17 net15 net16 skullfet_inverter_5v
x18 net16 net17 skullfet_inverter_5v
x19 net17 net18 skullfet_inverter_5v
x20 net18 net19 skullfet_inverter_5v
x21 net19 net20 skullfet_inverter_5v
.ends


* expanding   symbol:  skullfet_inverter_5v_pwr.sym # of pins=3
** sym_path: /foss/designs/ttsky-oscillating-bones/xschem/skullfet_inverter_5v_pwr.sym
** sch_path: /foss/designs/ttsky-oscillating-bones/xschem/skullfet_inverter_5v_pwr.sch
.subckt skullfet_inverter_5v_pwr A Y VDD
*.ipin A
*.opin Y
*.ipin VDD
XM1 Y A VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=4.5 nf=1 ad=5.3775 as=7.5825 pd=12.07 ps=29.53 nrd=0.0644444444444444
+ nrs=0.0644444444444444 sa=0 sb=0 sd=0 mult=1
XM2 Y A VGND VGND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=4.5 nf=1 ad=7.8525 as=5.1075 pd=29.65 ps=11.95 nrd=0.0644444444444444
+ nrs=0.0644444444444444 sa=0 sb=0 sd=0 mult=1
.ends


* expanding   symbol:  skullfet_inverter_5v.sym # of pins=2
** sym_path: /foss/designs/ttsky-oscillating-bones/xschem/skullfet_inverter_5v.sym
** sch_path: /foss/designs/ttsky-oscillating-bones/xschem/skullfet_inverter_5v.sch
.subckt skullfet_inverter_5v A Y
*.ipin A
*.opin Y
x1 A Y VAPWR skullfet_inverter_5v_pwr
.ends

.GLOBAL VGND
.GLOBAL VPWR
.GLOBAL VAPWR
.GLOBAL VDPWR
.end
